US08309546B2
Step 5: 5-{8-Chloro-9-[(3S)-1-(methylsulfonyl)pyrrolidin-3-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine
tert-Butyl (3S)-3-(2-{2-[bis(tert-butoxycarbonyl)amino]pyrimidin-5-yl}-8-chloro-6-morpholin-4-yl-9H-purin-9-yl)pyrrolidine-1-carboxylate (1.32 g, 1.88 mmol) was dissolved in methylene chloride (5 ml) followed by the addition of trifluoroacetic acid (5 ml) and the resulting mixture was stirred for 0.5 hours. The solvent was removed azeotropically with toluene and evaporated under reduced pressure. The residue was dissolved in methylene chloride followed by the addition of triethylamine (1 ml) and methanesulfonyl chloride (170 μl, 2.26 mmol) with ice cooling and the resulting mixture was stirred at room temperature for 4 hours. The reaction mixture was partitioned with ethyl acetate and water, and the solid that was not dissolved in either layer was collected by filtration, washed with ethyl acetate and water, and dried. This solid was suspended in methylene chloride, and then the insoluble matter was collected by filtration and dried to give the title compound (0.38 g, 42%) as a pale grey solid.

reactant | tert-Butyl (3S)-3-(2-{2-[bis(tert-butoxycarbonyl)amino]pyrimidin-5-yl}-8-chloro-6-morpholin-4-yl-9H-purin-9-yl)pyrrolidine-1-carboxylate | 1.88 mmol, 1.32 g | C(C)(C)(C)OC(=O)N(C1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)[C@@H]1CN(CC1)C(=O)OC(C)(C)C)Cl)N1CCOCC1)C(=O)OC(C)(C)C | C32H44ClN9O7
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.26 mmol, 170 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-{8-Chloro-9-[(3S)-1-(methylsulfonyl)pyrrolidin-3-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 0.38 g, 42% | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)[C@@H]1CN(CC1)S(=O)(=O)C | C18H22ClN9O3S
